US07691869B2
To a solution of 6.2 g (19.85 mmol) of the title A compound, t-butyl 4-(2,4-difluorobenzyl)piperazine-1-carboxylate in 50 mL of DCM at 0° C. is added 15 mL of trifluoroacetic acid. The reaction mixture is warmed to RT and stirred for 1 h, and 10 mL of 1N aqueous sodium hydroxide (NaOH) are added. The mixture is extracted with 2×100 mL of DCM and the organic layer is washed with water, dried over anhydrous MgSO4 and evaporated to dryness in vacuo. The residue is dissolved in a mixture of DCM-Et2O and two equivalents of HCl in Et2O are added, the precipitate solid is collected by filtration and washed with acetone to afford 4-(2,4-difluorobenzyl)piperazine dihydrochloride as a white solid: m.p=237° C. LC/MS (M+1=213.1). 1H NMR (DMSO-d6, 400 MHz) δ 3.44 (m, 8H), 4.39 (s, 2H), 7.25 (dt, 1H, J=8.4 Hz and 1.6 Hz), 7.43 (dt, 1H, J=9.2 Hz and 2.0 Hz), 7.84 (dd, 1H, J=15.2 Hz and 8.4 Hz), 9.84 (br s, NH). Anal. calculated for (C11H14F2N2, 2HCl+0.25H2O) C, 45.61; H, 5.74; Cl, 24.48; F, 13.12; N, 9.67; O, 1.38. Found C, 45.56; H, 5.90; N, 9.68.

reactant | t-butyl 4-(2,4-difluorobenzyl)piperazine-1-carboxylate | FC1=C(CN2CCN(CC2)C(=O)OC(C)(C)C)C=CC(=C1)F | C16H22F2N2O2
reactant | trifluoroacetic acid | 15 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium hydroxide | 1N, 10 mL | [OH-].[Na+]
reactant | HCl | two equivalents | Cl | ClH
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | DCM Et2O | C(Cl)Cl.CCOCC
solvent | Et2O | CCOCC | C4H10O
product | 4-(2,4-difluorobenzyl)piperazine dihydrochloride | Cl.Cl.FC1=C(CN2CCNCC2)C=CC(=C1)F | InChI=1S/C11H14F2N2.2ClH/c12-10-2-1-9(11(13)7-10)8-15-5-3-14-4-6-15;;/h1-2,7,14H,3-6,8H2;2*1H
